US07179823B1
After a mixture of ethyl 1-(4-phenoxybenzyl)-3-(4-phenoxybenzyloxy)-1H-pyrazole-4-carboxylate (500 mg), 1N sodium hydroxide solution (2 ml), tetrahydrofuran (5 ml), and ethanol (5 ml) was stirred at room temperature for 2 hours, 1N hydrochloric acid (3 ml) was added to the mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The resulting colorless crystals were collected by filtration to obtain 1-(4-phenoxybenzyl)-3-(4-phenoxybenzyloxy)-1H-pyrazole-4-carboxylic acid (450 mg, yield: 95%). This was recrystallized from acetone-hexane. Melting point: 141–142° C.

reactant | ethyl 1-(4-phenoxybenzyl)-3-(4-phenoxybenzyloxy)-1H-pyrazole-4-carboxylate | 500 mg | O(C1=CC=CC=C1)C1=CC=C(CN2N=C(C(=C2)C(=O)OCC)OCC2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C32H28N2O5
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(4-phenoxybenzyl)-3-(4-phenoxybenzyloxy)-1H-pyrazole-4-carboxylic acid | 450 mg, yield: 95% | O(C1=CC=CC=C1)C1=CC=C(CN2N=C(C(=C2)C(=O)O)OCC2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C30H24N2O5
